US07371802B2
Di-isobutyl thiophene-3,4-dicarboxylate
A mechanically stirred slurry of 5.00 g of thiophene-3,4-dicarboxylic acid (purchased from Aldrich) in 58.2 mL of 2-methyl-1-propanol was treated with 11.0 mL of chlorotrimethylsilane at room temperature. After completion of the addition, the reaction mixture was stirred at room temperature for 1 h, then at 65° C. for one day, quenched with water at 0° C. and extracted with ether. The combined organic phases were washed with saturated water solution of sodium carbonate, brine, dried over magnesium sulfate, filtered, concentrated on a rotary evaporator, and distilled in vacuum to give 7.86 g (95%) of the title compound of 99.6% GC-purity (bp 113° C./1 mm Hg; colorless oil).

reactant | thiophene-3,4-dicarboxylic acid | 5.00 g | S1C=C(C(=C1)C(=O)O)C(=O)O | C6H4O4S
reactant | chlorotrimethylsilane | 11.0 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-methyl-1-propanol | 58.2 mL | CC(CO)C | C4H10O
product | Di-isobutyl thiophene-3,4-dicarboxylate | 7.86 g, 95% | S1C=C(C(=C1)C(=O)OCC(C)C)C(=O)OCC(C)C | C14H20O4S
